US07259177B2
Analogously to the building block synthesis of 4-iodomethyl-5-phenyl-2-p-tolyloxazole, 1-cyclohexyl-1,2-propanedione-2-oxime and m-anis-aldehyde gave 4-iodomethyl-5-cyclohexyl-2-(3-methoxyphenyl)oxazole.

reactant | 4-iodomethyl-5-phenyl-2-p-tolyloxazole | ICC=1N=C(OC1C1=CC=CC=C1)C1=CC=C(C=C1)C | C17H14INO
reactant | 1-cyclohexyl-1,2-propanedione-2-oxime | C1(CCCCC1)C(C(C)=NO)=O | C9H15NO2
reactant | m-anis-aldehyde | C(C1=CC(=CC=C1)OC)=O | C8H8O2
product | 4-iodomethyl-5-cyclohexyl-2-(3-methoxyphenyl)oxazole | ICC=1N=C(OC1C1CCCCC1)C1=CC(=CC=C1)OC | C17H20INO2
